US07888352B2
To a solution of 4-piperidone monohydrate hydrochloride salt (2.2 g, 14.32 mmol, 1 eq) in acetonitrile, 2-bromoethyl methyl ether (5.9 ml, 28.6 mmol, 2 eq), and K2CO3 (2 eq) was added and heated at reflux overnight. Reaction extracted into dichloromethane (50 ml), washed with water (2×50 ml), dried (MgSO4), and evaporated in vacuo to give 1-(2-methoxy-ethyl)piperidin-4-one as a yellow oil.

reactant | 4-piperidone monohydrate hydrochloride salt | 14.32 mmol, 2.2 g, 1 eq | Cl.O.N1CCC(CC1)=O
reactant | 2-bromoethyl methyl ether | 28.6 mmol, 5.9 ml, 2 eq | COCCBr | C3H7BrO
reactant | K2CO3 | 2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-methoxy-ethyl)piperidin-4-one | COCCN1CCC(CC1)=O | C8H15NO2
